US06177426B1
Preparation of ((3-(2-Amino-1,2-dioxoethyl)-1-((1,1′-biphenyl)-3-ylmethyl)-2-methyl-1H-indol-4-yl)oxy)acetic acid, morpholinylethyl ester.
In a flask containing 10 ml of dimethylformamide was added with stirring 133 mg. of 4-(2-chloroethyl)morpholine hydrochloride (available from Aldrich Chemical Co., Milwaukee, Wis. USA, Item No. C4,220-3) and 231 mg. of CsCO3 and 300 mg. of ((3-(2-amino-1,2-dioxoethyl)-1-((1,1′-biphenyl)-3-ylmethyl)-2-methyl-1H-indol-4-yl)oxy)acetic acid, sodium salt. The slurry was heated to 60° C. until a solution formed. Heating was continued overnight until reaction was complete. 20 ml of H2O was added to the flask and the organic soluble phase extracted with three 20 ml. portions of ethyl acetate. The ethyl acetate solution was washed with water and dried over and dried over Na2SO4. Removal of solvent gave product verified by IR and NMR to be the title compound. Molecular Formula: C32H22N3O6

reactant | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
reactant | 4-(2-chloroethyl)morpholine hydrochloride | Cl.ClCCN1CCOCC1
reactant | ((3-(2-amino-1,2-dioxoethyl)-1-((1,1′-biphenyl)-3-ylmethyl)-2-methyl-1H-indol-4-yl)oxy)acetic acid | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)O)CC=1C=C(C=CC1)C1=CC=CC=C1)C)=O | C26H22N2O5
reactant | sodium | [Na] | Na
solvent | H2O | 20 ml | O | H2O
product | ((3-(2-Amino-1,2-dioxoethyl)-1-((1,1′-biphenyl)-3-ylmethyl)-2-methyl-1H-indol-4-yl)oxy)acetic acid, morpholinylethyl ester | NC(C(=O)C1=C(N(C2=CC=CC(=C12)OCC(=O)OCCN1CCOCC1)CC=1C=C(C=CC1)C1=CC=CC=C1)C)=O | C32H33N3O6
